US08003654B2
11) Synthesis of ethyl-(1-methyl-1H-pyrazol-4-ylmethyl)-amine
prepared by reaction of the commercially available 1-methyl-1H-pyrazole-4-carbaldehyde with 2M ethylamine in THF.

reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | CN1N=CC(=C1)C=O | C5H6N2O
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(1-methyl-1H-pyrazol-4-ylmethyl)-amine | C(C)NCC=1C=NN(C1)C | C7H13N3
